### PR TITLE
[Merged by Bors] - feat (CategoryTheory): Chosen pullbacks

### PR DESCRIPTION
**Pull request by sinhp**
We develop a computable implementation of pullbacks, by introducing a new type-class `ChosenPullbacksAlong`. The non-computable `HasPullbacksAlong` and `HasPullbacks` predicates yield instances of `ChosenPullbacksAlong` (using global choice), but interestingly in the category of types every morphism has chosen pullbacks. Also, we prove that in cartesian monoidal categories, morphisms to the terminal object and the product projections have chosen pullbacks. We prove that `ChosenPullbacksAlong` has good closure properties, e.g., id, isos have chosen pullbacks, and composition of morphisms with chosen pullbacks have chosen pullbacks.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 1]
```diff
@@ -0,0 +1,200 @@
...
+Authors: Sina Hazratpour
+-/
+import Mathlib.CategoryTheory.Comma.Over.Pullback
+import Mathlib.CategoryTheory.Limits.Shapes.Pullback.CommSq
+import Mathlib.CategoryTheory.Monoidal.Cartesian.Basic
+
+/-!
+# Chosen pullbacks
+
+# Main declarations
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
## Main declarations
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 2]
```diff
@@ -0,0 +1,200 @@
...
+- `ChosenPullback` : For a morphism `f : Y ⟶ X` in `C`, the type class `ChosenPullback f`
+provides the data of a pullback functor `Over X ⥤ Over Y` as a right adjoint to `Over.map f`.
+
+## Main results
+
+- We prove that `ChosenPullback` has good closure properties, e.g., isos have chosen pullbacks, and
+  composition of morphisms with chosen pullbacks have chosen pullbacks.
+
+- `Over.ChosenPullback.isPullback` proves that the reindexing squares of an instance of
+  `ChosenPullback g` are pullback squares.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Here, I think you should refer to the definition `ChosenPullback.pullbackObj` and say that it is part of a pullback square, with a similar API as `IsPullback.of_hasPullback/pullback.*`.
I think that a language such as "reindex(ing)" should be avoided, as this is not at all a standard terminology for discussing pullbacks (which is a very basic categorical notion).

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 3]
```diff
@@ -0,0 +1,200 @@
...
+class ChosenPullback {Y X : C} (f : Y ⟶ X) where
+  /-- The pullback functor along `f`. -/
+  pullback : Over X ⥤ Over Y
+  /-- The adjunction between `Over.map f` and `pullback f`. -/
+  mapPullbackAdj (f) : Over.map f ⊣ pullback
+
+namespace ChosenPullback
+
+/-- `ChosenPullback (Over.mk f).hom` from  `ChosenPullback f`. -/
+def ofOverMk {Y X : C} (f : Y ⟶ X) [ChosenPullback f] : ChosenPullback (Over.mk f).hom :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
def overMkHom {Y X : C} (f : Y ⟶ X) [ChosenPullback f] : ChosenPullback (Over.mk f).hom :=
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 4]
```diff
@@ -0,0 +1,200 @@
...
+  inferInstanceAs (ChosenPullback f)
+
+/-- Relating the existing noncomputable `HasPullbacksAlong` typeclass to `ChosenPullback`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Could you add an instance saying that `HasPullbacksAlong f` holds if we have `ChosenPullback f`? (This should appear after the lemma `isPullback` below. Using the uniqueness of the adjoint, could you also provide an iso between `ChosenPullback.pullback f` and `Over.pullback f`?)

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 5]
```diff
@@ -0,0 +1,200 @@
...
+@[simps]
+noncomputable def ofHasPullbacksAlong {Y X : C} (f : Y ⟶ X) [HasPullbacksAlong f] :
+    ChosenPullback f where
+  pullback := Over.pullback f
+  mapPullbackAdj := Over.mapPullbackAdj f
+
+/-- The identity morphism has a chosen pullback. -/
+@[simps]
+def id {X : C} : ChosenPullback (𝟙 X) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: This is not very important, but I think it should be an explicit parameter:
```suggestion
def id (X : C) : ChosenPullback (𝟙 X) where
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 6]
```diff
@@ -0,0 +1,200 @@
...
+        right_inv k := by
+          ext
+          dsimp
+          ext
+          · simpa using k.w.symm
+          · aesop } }
+
+/-- In cartesian monoidal categories, the second product projections `snd` have chosen pullbacks. -/
+@[simps]
+def cartesianMonoidalCategorySnd [CartesianMonoidalCategory C] {X Y : C} :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Even if in following code the second projection will be preferred, could you also add `cartesianMonoidalCategoryFst`?

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 7]
```diff
@@ -0,0 +1,200 @@
...
+abbrev pullbackObj := ((pullback g).obj (Over.mk f)).left
+
+/-- A morphism in `Over X` from the chosen pullback along `g` of `f` to `Over.mk f`. -/
+abbrev fst' := (mapPullbackAdj g).counit.app (Over.mk f)
+
+/-- The first projection from the chosen pullback along `g` of `f` to the domain of `f`. -/
+abbrev fst : pullbackObj f g ⟶ Y := fst' f g |>.left
+
+theorem fst'_left : (fst' f g).left = fst f g := by
+  rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
theorem fst'_left : (fst' f g).left = fst f g := rfl
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 8]
```diff
@@ -0,0 +1,200 @@
...
+
+/-- The second projection from the chosen pullback along `g` of `f` to the domain of `g`. -/
+abbrev snd : pullbackObj f g ⟶ Z := (pullback g).obj (Over.mk f) |>.hom
+
+/-- A morphism in `Over X` from the chosen pullback along `g` of `f` to `Over.mk g`. -/
+abbrev snd' : (Over.map g).obj ((pullback g).obj (Over.mk f)) ⟶ (Over.mk g) :=
+  Over.homMk (snd f g)
+
+theorem snd'_left : (snd' f g).left = snd f g := by
+  rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
theorem snd'_left : (snd' f g).left = snd f g := rfl
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 9]
```diff
@@ -0,0 +1,200 @@
...
+  let U : Over Z := Over.mk (φ₁ ≫ snd f g)
+  let φ₁' : U ⟶ (pullback g).obj (Over.mk f) := Over.homMk φ₁
+  let φ₂' : U ⟶ (pullback g).obj (Over.mk f) := Over.homMk φ₂ (by simpa using h₂.symm)
+  have : (adj.homEquiv U _).symm φ₁' = (adj.homEquiv U _).symm φ₂' := by
+    simp [adj.homEquiv_symm_apply]
+    apply (forget X).map_injective
+    simpa using h₁
+  have : φ₁' = φ₂' := by
+    apply (adj.homEquiv U _).symm.injective
+    exact this
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Is it possible to move the proof part of the first `have` in place of the `exact this` in the second `have`?

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 10]
```diff
@@ -0,0 +1,200 @@
...
+  apply congr_arg CommaMorphism.left this
+
+section Lift
+
+variable {W : C} (a : W ⟶ Y) (b : W ⟶ Z) (h : a ≫ f = b ≫ g)
+
+/-- Given morphisms `a : W ⟶ Y` and `b : W ⟶ Z` satisfying `a ≫ f = b ≫ g`,
+constructs the unique morphism `W ⟶ pullbackObj f g`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
constructs the unique morphism `W ⟶ pullbackObj f g` which lifts `a` and `b`. -/
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 11]
```diff
@@ -0,0 +1,200 @@
...
+def lift : W ⟶ pullbackObj f g :=
+  (((mapPullbackAdj g).homEquiv (Over.mk b) (Over.mk f)) (Over.homMk a)).left
+
+@[reassoc (attr := simp)]
+theorem lift_fst : lift a b h ≫ fst f g = a := by
+  let adj := mapPullbackAdj g
+  let a' : (Over.map g).obj (Over.mk b) ⟶ Over.mk f := Over.homMk a h
+  let l' := adj.homEquiv (Over.mk b) (Over.mk f) (Over.homMk a)
+  have : (Over.map g).map l' ≫ fst' f g = a' := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Untested:
```suggestion
  have : (Over.map g).map (adj.homEquiv (Over.mk b) (Over.mk f) (Over.homMk a) ≫ fst' f g = a' := by
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 12]
```diff
@@ -0,0 +1,200 @@
...
+    simp [← Adjunction.homEquiv_counit]
+    aesop
+  apply congr_arg CommaMorphism.left this
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Untested:
```suggestion
  exact congr_arg CommaMorphism.left this
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 13]
```diff
@@ -0,0 +1,200 @@
...
+  let φ₁' : U ⟶ (pullback g).obj (Over.mk f) := Over.homMk φ₁
+  let φ₂' : U ⟶ (pullback g).obj (Over.mk f) := Over.homMk φ₂ (by simpa using h₂.symm)
+  have : (adj.homEquiv U _).symm φ₁' = (adj.homEquiv U _).symm φ₂' := by
+    simp [adj.homEquiv_symm_apply]
+    apply (forget X).map_injective
+    simpa using h₁
+  have : φ₁' = φ₂' := by
+    apply (adj.homEquiv U _).symm.injective
+    exact this
+  apply congr_arg CommaMorphism.left this
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Untested:
```suggestion
  exact congr_arg CommaMorphism.left this
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean (hunk 9 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Also, the `simp` is nonterminal.

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: removed first `have` and a `simp` in it. What does it mean for `simp` to be non-terminal in this case? asking since I'm not sure I understand what you're saying and can be useful to know for future/

Comment (joelriou) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: As per mathlib conventions, `simp [...]` is considered ok if this is the last tactic of a block, but it has to be transformed as `simp only [...]` if there are other tactics after (i.e. when `simp` is not used as a terminal tactic). We allow very few exceptions to this.

**Comment by sinhp** [comment]
@joelriou I implemented the changes; anything else that needs to be done about this PR?

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 14]
```diff
@@ -0,0 +1,215 @@
...
+        right_inv k := by
+          ext
+          dsimp
+          ext
+          · simpa using k.w.symm
+          · aesop } }
+
+/-- In cartesian monoidal categories, the first product projections `fst` have chosen pullbacks. -/
+@[simps]
+def cartesianMonoidalCategoryFst [CartesianMonoidalCategory C] {X Y : C} :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
def cartesianMonoidalCategoryFst [CartesianMonoidalCategory C] (X Y : C) :
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 15]
```diff
@@ -0,0 +1,215 @@
...
+    ChosenPullback (fst X Y : X ⊗ Y ⟶ X) where
+  pullback.obj Z := Over.mk (Z.hom ▷ Y)
+  pullback.map g := Over.homMk (g.left ▷ Y)
+  mapPullbackAdj.unit.app T := Over.homMk (lift (𝟙 _) (T.hom ≫ snd _ _))
+  mapPullbackAdj.counit.app U := Over.homMk (fst _ _)
+
+/-- In cartesian monoidal categories, the second product projections `snd` have chosen pullbacks. -/
+@[simps]
+def cartesianMonoidalCategorySnd [CartesianMonoidalCategory C] {X Y : C} :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
def cartesianMonoidalCategorySnd [CartesianMonoidalCategory C] (X Y : C) :
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 16]
```diff
@@ -0,0 +1,215 @@
...
+theorem snd'_left : (snd' f g).left = snd f g := rfl
+
+variable {f g}
+
+@[reassoc]
+theorem condition : fst f g ≫ f = snd f g ≫ g :=
+  Over.w (fst' f g)
+
+variable (f g) in
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 17]
```diff
@@ -0,0 +1,215 @@
...
+def lift : W ⟶ pullbackObj f g :=
+  (((mapPullbackAdj g).homEquiv (Over.mk b) (Over.mk f)) (Over.homMk a)).left
+
+@[reassoc (attr := simp)]
+theorem lift_fst : lift a b h ≫ fst f g = a := by
+  let adj := mapPullbackAdj g
+  let a' : (Over.map g).obj (Over.mk b) ⟶ Over.mk f := Over.homMk a h
+  have : (Over.map g).map (adj.homEquiv (.mk b) (.mk f) (Over.homMk a)) ≫ fst' f g = a' := by
+    simp [← Adjunction.homEquiv_counit]
+    aesop
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: This nonterminal `simp` should be "squeezed". Could you apply `simp?`?

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 18]
```diff
@@ -0,0 +1,215 @@
...
+  isLimit' :=
+    ⟨PullbackCone.IsLimit.mk _ (fun s ↦ lift s.fst s.snd s.condition)
+      (by simp) (by simp) (by aesop)⟩
+
+instance hasPullbackAlong : HasPullbacksAlong g := fun f => (isPullback f g).hasPullback
+
+/-- The computable `ChosenPullback.pullback g` is naturally isomorphic to the noncomputable
+`Over.pullback g`. -/
+@[simps!]
+noncomputable def pullback_iso_overPullback : ChosenPullback.pullback g ≅ Over.pullback g :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
noncomputable def pullbackIsoOverPullback : ChosenPullback.pullback g ≅ Over.pullback g :=
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 19]
```diff
@@ -0,0 +1,215 @@
...
+  w := condition
+  isLimit' :=
+    ⟨PullbackCone.IsLimit.mk _ (fun s ↦ lift s.fst s.snd s.condition)
+      (by simp) (by simp) (by aesop)⟩
+
+instance hasPullbackAlong : HasPullbacksAlong g := fun f => (isPullback f g).hasPullback
+
+/-- The computable `ChosenPullback.pullback g` is naturally isomorphic to the noncomputable
+`Over.pullback g`. -/
+@[simps!]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Instead of using the `simps!` attribute which produces lemmas which are not super helpful, could you add the following two equational lemmas (and two others for `inv_app`)?
```lean
@[reassoc (attr := simp)]
lemma pullbackIsoOverPullback_hom_app_comp_fst (Z : Over X) :
    ((pullbackIsoOverPullback g).hom.app Z).left ≫ pullback.fst _ _ = fst _ _ := by
  simpa using (Over.forget _).congr_map
    ((ChosenPullback.mapPullbackAdj g).rightAdjointUniq_hom_app_counit
      (Over.mapPullbackAdj g) Z)

@[reassoc (attr := simp)]
lemma pullbackIsoOverPullback_hom_app_comp_snd (Z : Over X) :
    ((pullbackIsoOverPullback g).hom.app Z).left ≫ pullback.snd _ _ = snd _ _ :=
  Over.w ((pullbackIsoOverPullback g).hom.app Z)
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 20]
```diff
@@ -0,0 +1,215 @@
...
+namespace Over
+
+/-- A choice of pullback functor `Over X ⥤ Over Y` along a morphism `f : Y ⟶ X` in `C`
+as a right adjoint to the functor `Over.map f`. -/
+class ChosenPullback {Y X : C} (f : Y ⟶ X) where
+  /-- The pullback functor along `f`. -/
+  pullback : Over X ⥤ Over Y
+  /-- The adjunction between `Over.map f` and `pullback f`. -/
+  mapPullbackAdj (f) : Over.map f ⊣ pullback
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Could you add here an abbreviation `ChosenPullbacks` saying that for any morphism `X`, `ChosenPullback f` holds? (This should be convenient in further developments, and also help typeclass inference when we define chosen pullbacks on functor categories.)

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 21]
```diff
@@ -0,0 +1,228 @@
...
+variable (C) in
+abbrev ChosenPullbacks := Π {X Y : C} (f : Y ⟶ X), ChosenPullback f
+
+namespace ChosenPullback
+
+/-- `ChosenPullback (Over.mk f).hom` from  `ChosenPullback f`. -/
+def overMkHom {Y X : C} (f : Y ⟶ X) [ChosenPullback f] : ChosenPullback (Over.mk f).hom :=
+  inferInstanceAs (ChosenPullback f)
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: I think this can be removed:
```suggestion
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 22]
```diff
@@ -0,0 +1,228 @@
...
+    ((pullbackIsoOverPullback g).hom.app Z).left ≫ pullback.fst _ _ = fst _ _ := by
+  simpa using (Over.forget _).congr_map
+    ((ChosenPullback.mapPullbackAdj g).rightAdjointUniq_hom_app_counit
+      (Over.mapPullbackAdj g) Z)
+
+@[reassoc (attr := simp)]
+lemma pullbackIsoOverPullback_hom_app_comp_snd (Z : Over X) :
+    ((pullbackIsoOverPullback g).hom.app Z).left ≫ pullback.snd _ _ = snd _ _ :=
+  Over.w ((pullbackIsoOverPullback g).hom.app Z)
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 23]
```diff
@@ -0,0 +1,252 @@
...
+@[reassoc (attr := simp)]
+theorem lift_snd : lift a b h ≫ snd f g = b := by
+  simp [lift]
+
+/-- The functoriality of `pullbackObj f g` in the first argument. -/
+def pullbackObjMap {Y' : C} (h : Y' ⟶ Y) : pullbackObj (h ≫ f) g ⟶ pullbackObj f g :=
+  lift (fst _ _ ≫ h) (snd _ _) (by simp [condition])
+
+@[reassoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 24]
```diff
@@ -0,0 +1,252 @@
...
+  let φ₂' : U ⟶ (pullback g).obj (Over.mk f) := Over.homMk φ₂ (by simpa using h₂.symm)
+  have : φ₁' = φ₂' := by
+    apply (adj.homEquiv U _).symm.injective
+    apply (forget X).map_injective
+    simpa using h₁
+  exact congr_arg CommaMorphism.left this
+
+section Lift
+
+variable {W : C} (a : W ⟶ Y) (b : W ⟶ Z) (h : a ≫ f = b ≫ g)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
variable {W : C} (a : W ⟶ Y) (b : W ⟶ Z) (h : a ≫ f = b ≫ g := by cat_disch)
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 25]
```diff
@@ -0,0 +1,252 @@
...
+/-- If `g` has a chosen pullback, then `Over.ChosenPullback.fst f g` has a chosen pullback. -/
+def chosenPullbackOfFst : ChosenPullback (fst f g) where
+  pullback.obj W := Over.mk (pullbackObjMap W.hom)
+  pullback.map {W' W} k := Over.homMk
+    (lift (fst _ g ≫ k.left) (snd _ g) (by simp [condition]))
+    (by simp only [pullbackObjMap]; aesop)
+  mapPullbackAdj.unit.app Q :=
+    Over.homMk (lift (𝟙 _) (Q.hom ≫ snd _ _) (by simp [condition]))
+    (by simp only [pullbackObjMap]; aesop)
+  mapPullbackAdj.counit.app W := Over.homMk (fst _ g) (by simp [pullbackObjMap])
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
attribute [local simp] condition in
/-- If `g` has a chosen pullback, then `Over.ChosenPullback.fst f g` has a chosen pullback. -/
def chosenPullbackOfFst : ChosenPullback (fst f g) where
  pullback.obj W := Over.mk (pullbackObjMap W.hom)
  pullback.map {W' W} k := Over.homMk (lift (fst _ g ≫ k.left) (snd _ g))
  mapPullbackAdj.unit.app Q := Over.homMk (lift (𝟙 _) (Q.hom ≫ snd _ _))
  mapPullbackAdj.counit.app W := Over.homMk (fst _ g)
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 26]
```diff
@@ -0,0 +1,252 @@
...
+
+instance hasPullbackAlong : HasPullbacksAlong g := fun f => (isPullback f g).hasPullback
+
+instance hasPullbacks [ChosenPullbacks C] : HasPullbacks C :=
+  @hasPullbacks_of_hasLimit_cospan C _ (isPullback _ _).hasPullback
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
  hasPullbacks_of_hasLimit_cospan _
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean (hunk 19 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Could you add the `inv_app` versions?

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 27]
```diff
@@ -0,0 +1,249 @@
...
+instance hasPullbacks [ChosenPullbacks C] : HasPullbacks C :=
+  hasPullbacks_of_hasLimit_cospan _
+
+/-- The computable `ChosenPullback.pullback g` is naturally isomorphic to the noncomputable
+`Over.pullback g`. -/
+noncomputable def pullbackIsoOverPullback : ChosenPullback.pullback g ≅ Over.pullback g :=
+  (ChosenPullback.mapPullbackAdj g).rightAdjointUniq (Over.mapPullbackAdj g)
+
+@[reassoc (attr := simp)]
+theorem pullbackIsoOverPullback_hom_app_comp_fst (Z : Over X) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Could you add the `inv_app` versions?

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: added in the last commit.

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 28]
```diff
@@ -0,0 +1,262 @@
...
+  have : (Over.map g).map (adj.homEquiv (.mk b) (.mk f) (Over.homMk a)) ≫ fst' f g = a' := by
+    simp only [Functor.id_obj, ← Adjunction.homEquiv_counit, Equiv.symm_apply_apply, adj, a']
+  exact congr_arg CommaMorphism.left this
+
+@[reassoc (attr := simp)]
+theorem lift_snd : lift a b h ≫ snd f g = b := by
+  simp [lift]
+
+/-- The functoriality of `pullbackObj f g` in the first argument. -/
+def pullbackObjMap {Y' : C} (h : Y' ⟶ Y) : pullbackObj (h ≫ f) g ⟶ pullbackObj f g :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: This should probably be generalized to look similar to `pullback.map`.

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: see the latest commit.

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 29]
```diff
@@ -0,0 +1,312 @@
...
+
+@[reassoc (attr := simp)]
+theorem pullbackIsoOverPullback_hom_app_comp_snd (T : Over X) :
+    ((pullbackIsoOverPullback g).hom.app T).left ≫ pullback.snd _ _ = snd _ _ :=
+  Over.w ((pullbackIsoOverPullback g).hom.app T)
+
+@[reassoc (attr := simp)]
+theorem pullbackIsoOverPullback_inv_app_comp_fst (T : Over X) :
+    ((pullbackIsoOverPullback g).inv.app T).left ≫ fst _ _ = pullback.fst _ _ := by
+  convert (Over.forget _).congr_map
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Using `pullbackIsoOverPullback_hom_app_comp_fst` to prove this should make it possible to avoid `convert`.

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 30]
```diff
@@ -0,0 +1,312 @@
...
+    (γ₁ : Y' ⟶ Y) (γ₂ : Z' ⟶ Z) (γ₃ : X' ⟶ X)
+    (comm₁ : f' ≫ γ₃ = γ₁ ≫ f := by cat_disch) (comm₂ : g' ≫ γ₃ = γ₂ ≫ g := by cat_disch) :
+    pullbackObj f' g' ⟶ pullbackObj f g :=
+  lift (fst f' g' ≫ γ₁) (snd f' g' ≫ γ₂)
+    (by rw [assoc, ← comm₁, ← assoc, condition, assoc, comm₂, assoc])
+
+/-- The canonical morphism `pullbackObj f g ⟶ pullbackObj (f ≫ i) (g ≫ i)`. -/
+def pullbackMapDesc {X' : C} (i : X ⟶ X') [ChosenPullback (g ≫ i)] :
+    pullbackObj f g ⟶ pullbackObj (f ≫ i) (g ≫ i) :=
+  pullbackMap (f ≫ i) (g ≫ i) f g (𝟙 _) (𝟙 _) i
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: I would suggest removing this as it is no longer very much required for the definitions below.

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 31]
```diff
@@ -0,0 +1,312 @@
...
+
+@[reassoc (attr := simp)]
+theorem pullbackMap_comp {Y' Z' X' Y'' Z'' X'' : C}
+    {f' : Y' ⟶ X'} {g' : Z' ⟶ X'} {f'' : Y'' ⟶ X''} {g'' : Z'' ⟶ X''}
+    [ChosenPullback g'] [ChosenPullback g'']
+    {γ₁ : Y' ⟶ Y} {γ₂ : Z' ⟶ Z} {γ₃ : X' ⟶ X}
+    {δ₁ : Y'' ⟶ Y'} {δ₂ : Z'' ⟶ Z'} {δ₃ : X'' ⟶ X'}
+    (comm₁ comm₂ comm₁' comm₂' := by cat_disch) :
+    pullbackMap f' g' f'' g'' δ₁ δ₂ δ₃ comm₁' comm₂' ≫
+    pullbackMap f g f' g'  γ₁ γ₂ γ₃ comm₁ comm₂ =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
      pullbackMap f g f' g'  γ₁ γ₂ γ₃ comm₁ comm₂ =
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 32]
```diff
@@ -0,0 +1,312 @@
...
+    pullbackMap f g f'' g'' (δ₁ ≫ γ₁) (δ₂ ≫ γ₂) (δ₃ ≫ γ₃)
+      (by rw [reassoc_of% comm₁', comm₁, assoc]) (by rw [reassoc_of% comm₂', comm₂, assoc]) := by
+  apply hom_ext <;> simp [assoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Untested, but `Category.assoc` should already be in the simp set:
```suggestion
  apply hom_ext <;> simp
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 33]
```diff
@@ -0,0 +1,312 @@
...
+
+end PullbackMap
+
+variable (f g)
+
+theorem isPullback : IsPullback (fst f g) (snd f g) f g where
+  w := condition
+  isLimit' :=
+    ⟨PullbackCone.IsLimit.mk _ (fun s ↦ lift s.fst s.snd s.condition)
+      (by simp) (by simp) (by aesop)⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Untested, but `cat_disch` is preferred over `aesop` in category theory:
```suggestion
      (by simp) (by simp) (by cat_disch)⟩
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean (hunk 29 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: do you mean using `pullbackIsoOverPullback_hom_app_comp_fst` in this proof or imitating a proof of `pullbackIsoOverPullback_hom_app_comp_fst`? I used `simpa using ...` but somehow it did not work.

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: managed to construct a proof without convert using `pullbackIsoOverPullback_hom_app_comp_fst` in the proof.

File: Mathlib/CategoryTheory/Comma/Over/Basic.lean [hunk 34]
```diff
@@ -123,6 +123,16 @@ lemma inv_left_hom_left {f g : Over X} (e : f ≅ g) :
     e.inv.left ≫ e.hom.left = 𝟙 g.left := by
   simp [← Over.comp_left]
 
+/-- An isomorphism of objects in the over category induces an isomorphism of their domains. -/
+def isoLeftIso {f g : Over X} (e : f ≅ g) : f.left ≅ g.left :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Comma/Over/Basic.lean]: I am not sure we need this, as this is `(Over.forget ..).mapIso e`.

Comment (sinhp) [reply Mathlib/CategoryTheory/Comma/Over/Basic.lean]: done!

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 35]
```diff
@@ -0,0 +1,308 @@
...
+
+@[reassoc (attr := simp)]
+theorem pullbackMap_snd {Y' Z' X' : C} {f' : Y' ⟶ X'} {g' : Z' ⟶ X'} [ChosenPullback g']
+    {γ₁ : Y' ⟶ Y} {γ₂ : Z' ⟶ Z} {γ₃ : X' ⟶ X} (comm₁ comm₂ := by cat_disch) :
+    pullbackMap f g f' g' γ₁ γ₂ γ₃ comm₁ comm₂ ≫ snd f g = snd f' g' ≫ γ₂ := by
+  simp only [pullbackMap, lift_snd]
+
+@[simp]
+theorem pullbackMap_id : pullbackMap f g f g (𝟙 Y) (𝟙 Z) (𝟙 X) = 𝟙 _ := by
+  apply hom_ext <;> simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Untested, but as `hom_ext` is an `ext` lemma, it should reasonably work (and we should investigate how to make this work otherwise!).
```suggestion
  cat_disch
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 36]
```diff
@@ -0,0 +1,308 @@
...
+    {f' : Y' ⟶ X'} {g' : Z' ⟶ X'} {f'' : Y'' ⟶ X''} {g'' : Z'' ⟶ X''}
+    [ChosenPullback g'] [ChosenPullback g'']
+    {γ₁ : Y' ⟶ Y} {γ₂ : Z' ⟶ Z} {γ₃ : X' ⟶ X}
+    {δ₁ : Y'' ⟶ Y'} {δ₂ : Z'' ⟶ Z'} {δ₃ : X'' ⟶ X'}
+    (comm₁ comm₂ comm₁' comm₂' := by cat_disch) :
+    pullbackMap f' g' f'' g'' δ₁ δ₂ δ₃ comm₁' comm₂' ≫
+      pullbackMap f g f' g'  γ₁ γ₂ γ₃ comm₁ comm₂ =
+    pullbackMap f g f'' g'' (δ₁ ≫ γ₁) (δ₂ ≫ γ₂) (δ₃ ≫ γ₃)
+      (by rw [reassoc_of% comm₁', comm₁, assoc]) (by rw [reassoc_of% comm₂', comm₂, assoc]) := by
+  apply hom_ext <;> simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
  cat_disch
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 37]
```diff
@@ -0,0 +1,308 @@
...
+  Over.w ((pullbackIsoOverPullback g).hom.app T)
+
+@[reassoc (attr := simp)]
+theorem pullbackIsoOverPullback_inv_app_comp_fst (T : Over X) :
+    ((pullbackIsoOverPullback g).inv.app T).left ≫ fst (T.hom) g = pullback.fst T.hom g := by
+  let iso : pullbackObj T.hom g ≅ (Limits.pullback T.hom g) :=
+    (Over.forget ..).mapIso <| pullbackIsoOverPullback g |>.app T
+  have : ((pullbackIsoOverPullback g).inv.app T).left = iso.inv := by rfl
+  simp only [pullback_obj_left, this, Iso.inv_comp_eq]
+  aesop
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]:
```suggestion
  rw [← pullbackIsoOverPullback_hom_app_comp_fst, ← Over.comp_left_assoc,
    Iso.inv_hom_id_app, id_left, id_comp]
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 38]
```diff
@@ -0,0 +1,369 @@
...
+
+@[reassoc (attr := simp)]
+theorem pullbackIsoOverPullback_inv_app_comp_snd (T : Over X) :
+    ((pullbackIsoOverPullback g).inv.app T).left ≫ snd _ _ = pullback.snd _ _ :=
+  Over.w ((pullbackIsoOverPullback g).inv.app T)
+
+end PullbackFromChosenPullbacks
+
+section
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Could you keep everything below this out of this PR?

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: The reason I included them here is that I need to use a _computable_ cartesian monoidal structure from chosen pullbacks in the PR branch `lccc-basic` to relate having pushforwards to having cartesian closedness in the slices. Without cartesian monoidal from chosen pullbacks one can not even talk about cartesian closedness in the slices. 

What would be a better place than this file for this? I feel the cartesian monoidal structure from chosen pullback is very much related to ChosenPullbacks no?

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: Also, in `lccc-section` which is used in `lccc-basic` I prove 

```
def toOverIteratedSliceForwardIsoPullback [ChosenPullbacks C] {X Y : C} (f : X ⟶ Y) :
    toOver (Over.mk f) ⋙ (Over.mk f).iteratedSliceForward ≅ pullback f
```    

This statement does not type check without the cartesian monoidal structure on `Over (Over.mk f)`, since the functor `toOver (Over.mk f) : Over Y ⥤ Over (Over.mk f)` depends on it.

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: an alternative place for them would be `lccc-section` where I construct the object of sections of `X : Over I`.

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: @joelriou Happy to hear your suggestion on what would be a good place for the computable cartesian monoidal structure.

Comment (joelriou) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: I had told you to make a PR with only the very basic API of `ChosenPullback`. This allowed good reviewing work (which would have been more difficult for everybody with longer PRs). I was just about to merge this PR when I saw you had added new stuff. I am not questionning the releveance of this new stuff, but it should go in a separate PR (and a probably a new file, which makes the connection between the `ChosenPullback` assumptions and the `CartesianMonoidalCategory (Over _)` assumptions, in both directions [in particular, none should be `instance`, only defs: but this discussion should happen in a separate PR...]).

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: alright, I will open a new separate PR for just the cartesian monoidal section. This PR is now back to the state before adding to those.

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: what would be the name of that file? So far the name of the files in the LocallyCartesianClosed folder: 

- `ChosenPullback.lean`
- `Sections.lean`
- `ExponentiableMorphism.lean`
- `Basic.lean`
- `Types.lean`
- `Presheaves.lean` 
- `Beck-Chevalley.lean`


```mermaid
graph TD
  A[ChosenPullback.lean] -->  A'[Over.lean]
  A' --> B[Sections.lean]
  A' --> C[ExponentiableMorphism.lean]
  B --> D[Basic.lean]
  C --> D[Basic.lean]
  D --> E[Types.lean]
  E --> F[Presheaves.lean ]
  D --> G[Beck-Chevalley.lean]
```


(The file connecting the `ChosenPullback` and the `CartesianMonoidalCategory (Over _)` should sit between the first and the second in the list above due to dependencies.) 

(my first idea was to add them to the _same_ file `ChosenPullback.lean` in a new PR since that will be the root of the dependency graph.  Or, if you want another file then please suggest a name, I don't think `LocallyCartesianClosed.CartesianMonoidal.lean`, for example, is such a good name since it gives wrong connotation.)

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: @joelriou 

Finally, a totally separate question: 

Would it be a good idea to actually have `ChosenPullback` in the namespace `CategoryTheory` rather than `Over`? After all we prove `ChosenPullback` gives `IsPullback` and also since we already have noncomputable `Over.pullback` it currently constantly clashes with `Over.ChosenPullback.pullback` so in all the dependent files I need to `open Over hiding pullback x y ... z` to avoid the clash between the api of `Over` and `Over.ChosenPullback` when it comes to pullbacks.

Comment (joelriou) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: You are right: `ChosenPullback` should not be in the `Over` namespace.
(You could use `CartesianMonoidalCategory.lean` for the new file.)

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: I fear `CartesianMonoidalCategory.lean` gets interpreted as locally cartesian closed categories are cartesian monoidal which is not what we want to say. maybe `CartesianMonoidalCategoryOver.lean` (or some such thing), although it is a bit long?

Comment (sinhp) [reply Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: > You are right: `ChosenPullback` should not be in the `Over` namespace. (You could use `CartesianMonoidalCategory.lean` for the new file.)

removed the namespace `Over` in the last commit.

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean [hunk 39]
```diff
@@ -0,0 +1,313 @@
...
+namespace CategoryTheory
+
+open Category Limits CartesianMonoidalCategory MonoidalCategory Over
+
+variable {C : Type u₁} [Category.{v₁} C]
+
+/-- A choice of pullback functor `Over X ⥤ Over Y` along a morphism `f : Y ⟶ X` in `C`
+as a right adjoint to the functor `Over.map f`. -/
+class ChosenPullback {Y X : C} (f : Y ⟶ X) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullback.lean]: For consistency with `HasPullbacksAlong`, this name would be better:
```suggestion
class ChosenPullbacksAlong {Y X : C} (f : Y ⟶ X) where
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean [hunk 40]
```diff
@@ -0,0 +1,317 @@
...
+  `Over.ChosenPullbacksAlong.fst f g` and `Over.ChosenPullbacksAlong.snd f g` form a pullback square
+  over `f` and `g`.
+
+- We prove that in cartesian monoidal categories, morphisms to the terminal tensor unit and
+  the product projections have chosen pullbacks.
+
+- We prove that the slices of a category with chosen pullbacks is cartesian monoidal: In fact,
+  `cartesianMonoidalCategoryOver` provides a computable instance of
+  `CartesianMonoidalCategory (Over X)` for any object `X : C` when `C` has chosen pullbacks.
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean [hunk 41]
```diff
@@ -0,0 +1,317 @@
...
+## Main results
+
+- We prove that `ChosenPullbacksAlong` has good closure properties: isos have chosen pullbacks,
+  and composition of morphisms with chosen pullbacks have chosen pullbacks.
+
+-  We prove that chosen pullbacks yields usual pullbacks: `Over.ChosenPullbacksAlong.isPullback`
+  proves that for morphisms `f` and `g` with the same codomain, the object
+  `Over.ChosenPullbacksAlong.pullbackObj f g` together with morphisms
+  `Over.ChosenPullbacksAlong.fst f g` and `Over.ChosenPullbacksAlong.snd f g` form a pullback square
+  over `f` and `g`.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean]:
```suggestion
-  We prove that chosen pullbacks yields usual pullbacks: `ChosenPullbacksAlong.isPullback`
  proves that for morphisms `f` and `g` with the same codomain, the object
  `ChosenPullbacksAlong.pullbackObj f g` together with morphisms
  `ChosenPullbacksAlong.fst f g` and `ChosenPullbacksAlong.snd f g` form a pullback square
  over `f` and `g`.
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean [hunk 42]
```diff
@@ -0,0 +1,317 @@
...
+  pullback.map g := Over.homMk (X ◁ g.left)
+  mapPullbackAdj.unit.app T := Over.homMk (lift (T.hom ≫ fst _ _) (𝟙 _))
+  mapPullbackAdj.counit.app U := Over.homMk (snd _ _)
+
+section PullbackFromChosenPullbacksAlongs
+
+variable {Y Z X : C} (f : Y ⟶ X) (g : Z ⟶ X) [ChosenPullbacksAlong g]
+
+/-- The underlying object of the chosen pullback along `g` of `f`. -/
+abbrev pullbackObj := ((pullback g).obj (Over.mk f)).left
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean]: Similarly for the other definitions below, could you make the type explicit in the declaration :
```suggestion
abbrev pullbackObj : C := ((pullback g).obj (Over.mk f)).left
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean [hunk 43]
```diff
@@ -0,0 +1,317 @@
...
+
+theorem isPullback : IsPullback (fst f g) (snd f g) f g where
+  w := condition
+  isLimit' :=
+    ⟨PullbackCone.IsLimit.mk _ (fun s ↦ lift s.fst s.snd s.condition)
+      (by simp) (by simp) (by cat_disch)⟩
+
+attribute [local simp] condition in
+/-- If `g` has a chosen pullback, then `Over.ChosenPullbacksAlong.fst f g` has a chosen pullback. -/
+def ChosenPullbacksAlongOfFst : ChosenPullbacksAlong (fst f g) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean]:
```suggestion
def chosenPullbacksAlongFst : ChosenPullbacksAlong (fst f g) where
```

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean [hunk 44]
```diff
@@ -0,0 +1,313 @@
...
+
+section PullbackFromChosenPullbacksAlongs
+
+variable {Y Z X : C} (f : Y ⟶ X) (g : Z ⟶ X) [ChosenPullbacksAlong g]
+
+/-- The underlying object of the chosen pullback along `g` of `f`. -/
+abbrev pullbackObj : C := ((pullback g).obj (Over.mk f)).left
+
+/-- A morphism in `Over X` from the chosen pullback along `g` of `f` to `Over.mk f`. -/
+abbrev fst' := (mapPullbackAdj g).counit.app (Over.mk f)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean]: Could you add the type of `fst'`?

File: Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean [hunk 45]
```diff
@@ -0,0 +1,314 @@
...
+
+section PullbackFromChosenPullbacksAlongs
+
+variable {Y Z X : C} (f : Y ⟶ X) (g : Z ⟶ X) [ChosenPullbacksAlong g]
+
+/-- The underlying object of the chosen pullback along `g` of `f`. -/
+abbrev pullbackObj : C := ((pullback g).obj (Over.mk f)).left
+
+/-- A morphism in `Over X` from the chosen pullback along `g` of `f` to `Over.mk f`. -/
+abbrev fst' : ((Over.map g).obj <| (pullback g).obj <| Over.mk f) ⟶ Over.mk f :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LocallyCartesianClosed/ChosenPullbacksAlong.lean]:
```suggestion
abbrev fst' : (Over.map g).obj ((pullback g).obj (Over.mk f)) ⟶ Over.mk f :=
```
